US07435815B2
N-Benzyl-N-ethyl-2-[(2-methoxy-phenyl)-(3-methyl-pyridine-2-sulfonyl)-amino]-acetamide
prepared by reaction of [(2-methoxy-phenyl)-(3-methyl-pyridine-2-sulfonyl)-amino]-acetic acid with benzyl-ethyl-amine

reactant | [(2-methoxy-phenyl)-(3-methyl-pyridine-2-sulfonyl)-amino]-acetic acid | COC1=C(C=CC=C1)N(S(=O)(=O)C1=NC=CC=C1C)CC(=O)O | C15H16N2O5S
reactant | benzyl-ethyl-amine | C(C1=CC=CC=C1)NCC | C9H13N
product | N-Benzyl-N-ethyl-2-[(2-methoxy-phenyl)-(3-methyl-pyridine-2-sulfonyl)-amino]-acetamide | C(C1=CC=CC=C1)N(C(CN(S(=O)(=O)C1=NC=CC=C1C)C1=C(C=CC=C1)OC)=O)CC | C24H27N3O4S
